US07923450B2
[3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3-trifluoromethyl-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine
The title compound was prepared from crude 6-[1-dimethylamino-methylidene]-2-(3-trifluoromethyl-phenyl)-cyclohexanone (172 mg, 0.5 mmol) and N-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (134 mg, 0.37 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow solid (106 mg, 61%). MS ISP (m/e): 468.3 [(M+H)+]. mp 207-209° C.

reactant | 6-[1-dimethylamino-methylidene]-2-(3-trifluoromethyl-phenyl)-cyclohexanone | 0.5 mmol, 172 mg | CN(C=C1CCCC(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C16H18F3NO
reactant | N-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.37 mmol, 134 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3-trifluoromethyl-phenyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine | FC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C1=CC(=CC=C1)C(F)(F)F | C25H21F4N5
